US07148218B2
b) Preparation of (2S,3R,4S,5Z,8S,9R,10R,11S,12S)-3,9-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2,4,6,8,10,12-hexamethyl-13-(phenylmethoxy)-5-tridecene-1,11-diol.
Water (3 mL) is added to a solution of (5R,6S,7Z,10S,11R)-11-[(1R,2S,3S)-2-[(4-methoxyphenyl)methoxy]-1,3-dimethyl-4-(phenylmethoxy)butyl]-5-[(1S)-2-[(4-methoxyphenyl)methoxy]-1-methylethyl]-2,2,3,3,6,8,10,13,13,14,14-undecamethyl-4,12-dioxa-3,13-disilapentadec-7-ene (1.0 g, 1.19 mmol) in CH2Cl2 (30 mL) at 23° C. and stirred for 5 min. DDQ (1.62 g, 7.14 mmol, 6 eq) is added at once and stirred for 15 min. The product mixture is concentrated. The residue is filtered through celite and washed with hexane. The hexane layers are dried and concentrated. The crude product is chromatographed (from hexane to 10% EtOAc in hexane) to give 630 mg (89%) of the desired compound as a colorless oil.

reactant | Water | 3 mL | O | H2O
reactant | (5R,6S,7Z,10S,11R)-11-[(1R,2S,3S)-2-[(4-methoxyphenyl)methoxy]-1,3-dimethyl-4-(phenylmethoxy)butyl]-5-[(1S)-2-[(4-methoxyphenyl)methoxy]-1-methylethyl]-2,2,3,3,6,8,10,13,13,14,14-undecamethyl-4,12-dioxa-3,13-disilapentadec-7-ene | 1.19 mmol, 1.0 g | COC1=CC=C(C=C1)CO[C@H]([C@@H](C)[C@@H]([C@H](C\C(=C/[C@@H]([C@@H](O[Si](C(C)(C)C)(C)C)[C@H](COCC1=CC=C(C=C1)OC)C)C)\C)C)O[Si](C(C)(C)C)(C)C)[C@H](COCC1=CC=CC=C1)C | C54H88O7Si2
reactant | DDQ | 7.14 mmol, 1.62 g, 6 eq | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4S,5Z,8S,9R,10R,11S,12S)-3,9-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2,4,6,8,10,12-hexamethyl-13-(phenylmethoxy)-5-tridecene-1,11-diol | 630 mg, 89% | CC(C)(C)[Si](O[C@@H]([C@H](CO)C)[C@H](\C=C(/C[C@@H]([C@H]([C@@H]([C@H]([C@H](COCC1=CC=CC=C1)C)O)C)O[Si](C)(C)C(C)(C)C)C)\C)C)(C)C | C38H72O5Si2
